US07517532B2
To a cold (0° C.) solution of lithium aluminum hydride in diethyl ether (1 M, 15 mL, 15 mmol) under an atmosphere of nitrogen, a solution of methyl 1-trityl-2-aziridinecarboxylate (5.04 g, 14.7 mmol) in anhydrous ether (60 mL) was added over a period of 0.5 h. The resultant mixture was allowed to slowly warm up and stirred at room temperature for 1 hour. The resultant mixture was cooled back to 0° C. and treated successively with water (0.57 mL) over a period of 10 minutes, followed by addition of 15% aq NaOH (0.57 mL), and water (1.7 mL). The resultant suspension was filtered through a pad of Celite. The filtrate was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was treated with a mixture of ether (40 mL) and hexane (200 mL) with cooling. The precipitate was collected by filtration to provide (1-tritylaziridin-2-yl)methanol as white solid. Without further purification, the alcohol (1.0 g, 3.17 mmol) was added portionwise to a suspension of sodium hydride (60% dispersion in mineral oil, 0.24 g, 6.0 mmol). To the resultant mixture, terta-n-butylammonium iodide (50 mg, 0.14 mmol) and benzyl bromide (0.65 g, 3.8 mmol) were added. The reaction mixture was stirred at room temperature overnight and treated with water (20 mL). The organic extract was diluted with ether, washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a mixture of 5% ethyl acetate in hexane. Collection and concentration of appropriate fractions provided the title compound.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-trityl-2-aziridinecarboxylate | 14.7 mmol, 5.04 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(C1)C(=O)OC | C23H21NO2
reactant | water | 0.57 mL | O | H2O
reactant | NaOH | 0.57 mL | [OH-].[Na+]
reactant | water | 1.7 mL | O | H2O
solvent | ether | 60 mL | CCOCC | C4H10O
solvent | diethyl ether | 15 mmol, 1 M, 15 mL | C(C)OCC | C4H10O
product | (1-tritylaziridin-2-yl)methanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(C1)CO | C22H21NO
